US03934008
2.28 g of H-Pro-NH2 and 7.57 g of Z-Ala-ONP are dissolved in 20 ml of dimethylformamide and the yellow solution is allowed to stand for 18 hours at room temperature. It is then evaporated to dryness in a high vacuum, the residue is mixed with ethyl acetate and the resulting powder is thoroughly triturated. After filtering off and drying, 5.5 g of Z-Ala-Pro-NH2 of melting point 164°-165°C are obtained.

reactant | H-Pro-NH2 | 2.28 g | N1[C@H](C(=O)N)CCC1 | C5H10N2O
reactant | Z-Ala-ONP | 7.57 g | C[C@@H](C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])NC(=O)OCC2=CC=CC=C2 | C17H16N2O6
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Z-Ala-Pro-NH2 | 5.5 g | N([C@@H](C)C(=O)N1[C@H](C(=O)N)CCC1)C(=O)OCC1=CC=CC=C1 | C16H21N3O4
